US04055561
Following essentially the same procedure described in Example IV above and substituting α-methyl-ρ-phenylbenzylamine hydrochloride for the α-methyl-ρ-phenethylbenzylamine hydrochloride above, results in the formation of 2-[α-(4-biphenylyl)ethylimino]hexahydroazepine hydrochloride having a M.P. of 245°-7° C.

reactant | α-methyl-ρ-phenylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)C1=CC=CC=C1)N
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-[α-(4-biphenylyl)ethylimino]hexahydroazepine hydrochloride | Cl.C1(=CC=C(C=C1)C(C)N=C1NCCCCC1)C1=CC=CC=C1 | InChI=1S/C20H24N2.ClH/c1-16(22-20-10-6-3-7-15-21-20)17-11-13-19(14-12-17)18-8-4-2-5-9-18;/h2,4-5,8-9,11-14,16H,3,6-7,10,15H2,1H3,(H,21,22);1H
